US07745484B2
Step 4 and 5: 6-bromo-2,2-dimethyl-1,2,3,4-tetrahydroquinolin-4-amine
To a solution of 4-azido-6-bromo-2,2-dimethyl-1,2,3,4-tetrahydroquinoline (2.29 g, 8.15 mmol), water (6.50 ml, 361 mmol), and THF (20.4 ml, 8.15 mmol) was added triphenylphosphine (2.35 g, 8.96 mmol) in one portion. The resulting mixture was heated to 40 deg C. and stirred overnight. The crude mixture was dissolved with EtOAc and transferred to a sep. funnel containing 0.5 MHCl. The aqueous layer was washed 5×DCM. The aqueous layer was then neutralized with 6N NaOH and washed 3× with EtOAc. The organic layers were combined, dried with MgSO4, filtered and concentrated to provide the desired product. MS m/z: 239 (M−NH2).

reactant | 4-azido-6-bromo-2,2-dimethyl-1,2,3,4-tetrahydroquinoline | 8.15 mmol, 2.29 g | N(=[N+]=[N-])C1CC(NC2=CC=C(C=C12)Br)(C)C | C11H13BrN4
reactant | water | 361 mmol, 6.50 ml | O | H2O
reactant | THF | 8.15 mmol, 20.4 ml | C1CCOC1 | C4H8O
reactant | triphenylphosphine | 8.96 mmol, 2.35 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-bromo-2,2-dimethyl-1,2,3,4-tetrahydroquinolin-4-amine | BrC=1C=C2C(CC(NC2=CC1)(C)C)N | C11H15BrN2
